US04675320
To a solution of 2 g. (0.008 mole) of 6-hydroxy-2-nitro-3-phenylbenzofuran (described in U.S. Pat. No. 3,927,037, Example 2) in 25 ml. of glyme is added a solution of 0.016 mole of sodium hydride in 20 ml. of glyme. To this solution is added 1.2 g. (0.008 mole) of N,N-dimethyl-N-(2-chloroethyl)amine hydrochloride. The mixture is heated to its reflux temperature and maintained at reflux for 6 hours. The reaction mixture is extracted thrice with diethyl ether, the ether is washed with water and saturated sodium chloride solution and then dried. The ether extracts are treated while stirring with hydrogen chloride gas. A yellow residue is separated and washed with diethyl ether, then recrystallized from isopropanol to provide N,N-dimethyl-2-(2-nitro-3-phenyl-6-benzofuranyloxy)ethylamine hydrochloride, m.p. 231°-235° C. (dec.), having the structure

reactant | 6-hydroxy-2-nitro-3-phenylbenzofuran | 0.008 mole | OC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C14H9NO4
reactant | sodium hydride | 0.016 mole | [H-].[Na+]
reactant | N,N-dimethyl-N-(2-chloroethyl)amine hydrochloride | 0.008 mole | Cl.CN(CCCl)C
solvent | glyme | C(OC)COC | C4H10O2
product | N,N-dimethyl-2-(2-nitro-3-phenyl-6-benzofuranyloxy)ethylamine hydrochloride | Cl.CN(C)CCOC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | InChI=1S/C18H18N2O4.ClH/c1-19(2)10-11-23-14-8-9-15-16(12-14)24-18(20(21)22)17(15)13-6-4-3-5-7-13;/h3-9,12H,10-11H2,1-2H3;1H
